US06420426B1
In a flame-dried flask, under a nitrogen atmosphere, oven-dried cesium carbonate (4.33 g, 13.3 mmol) was combined with palladium acetate (85.3 mg, 0.380 mmol) and R-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.355 g, 0.570 mmol). While under a constant nitrogen flow, the mixture was dissolved in toluene (0.76 mL) and treated with 5-bromo-4-fluoro-2-methoxy-benzoic acid methyl ester (2.50 g, 9.50 mmol) and morpholine (0.995 mL, 11.4 mmol). After being heated to 100° C. for 24 h, the reaction was cooled to room temperature, diluted with ether, filtered and concentrated. Purification by MPLC (ethyl acetate in heptane) provided 4-fluoro-2-methoxy-5-morpholin-4-yl-benzoic acid methyl ester (1.20 g, 47%): 1H NMR (DMSO-d6 300 MHz) δ 7.33 (d, J=9.9 Hz, 1H), 7.08 (d, J=14.4 Hz, 1H), 3.76 (s, 3H), 3.75 (s, 3H), 3.70 (t, J=4.7 Hz, 4H), 2.90 (t, J=4.5 Hz, 4H).

reactant | cesium carbonate | 13.3 mmol, 4.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-4-fluoro-2-methoxy-benzoic acid methyl ester | 9.50 mmol, 2.50 g | COC(C1=C(C=C(C(=C1)Br)F)OC)=O | C9H8BrFO3
reactant | morpholine | 11.4 mmol, 0.995 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 0.76 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
catalyst | palladium acetate | 0.380 mmol, 85.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-fluoro-2-methoxy-5-morpholin-4-yl-benzoic acid methyl ester | 1.20 g, 47% | COC(C1=C(C=C(C(=C1)N1CCOCC1)F)OC)=O | C13H16FNO4
